US08372837B2
The mixture of 2-fluoro-4-nitrobenzonitrile (8.31 g, 50 mmol) and tin (II) chloride dihydrate (56.4 g, 250 mmol) in 250 mL of EtOAc was stirred at 25° C. overnight. LCMS (78109-084) indicated the reaction was completed. 25 mL of sat. K2CO3 was added to the reaction. The resulting mixture was stirred at room temperature for 2 h and was followed by addition of 100 g of solid K2CO3. The mixture was stirred at room temperature for 2 hours. Solid was removed by filtration and further washed with EtOAc (50 mL×2). The filtrate was concentrated to yield 6.81 g (100%) of 4-amino-2-fluorobenzonitrile as an off white solid. 1H NMR (400 MHz, CDCl3) δ ppm 4.30 (s, 2H) 6.29-6.51 (m, 2H) 7.27-7.40 (m, 1H). MS (ESI) 137 (M+H).

reactant | 2-fluoro-4-nitrobenzonitrile | 50 mmol, 8.31 g | FC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | tin (II) chloride dihydrate | 250 mmol, 56.4 g | O.O.[Sn](Cl)Cl
reactant | K2CO3 | 25 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 4-amino-2-fluorobenzonitrile | 6.81 g, 100% | NC1=CC(=C(C#N)C=C1)F | C7H5FN2
